US08633237B2
b) (S)-N-(5-(3-((dimethylamino)methyl)-5-(trifluoromethyl)benzyl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide
To a solution of (S)-N-(5-(3-(chloromethyl)-5-(trifluoromethyl)benzyl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide (0.090 mmol, 40 mg) in DMF (1 mL) was added dimethylamine (2M solution, 0.224 mmol, 0.112 mL). The whole was heated to 60° C. for 2 h before the reaction mixture was purified directly by prep HPLC to give the title compound. (21.2 mg, 52%). MS (ESI): m/z [M+H]+ 455.2

reactant | (S)-N-(5-(3-(chloromethyl)-5-(trifluoromethyl)benzyl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide | 0.090 mmol, 40 mg | ClCC=1C=C(CC=2C=C3C[C@H](CC3=CC2)NS(=O)(=O)C(C)C)C=C(C1)C(F)(F)F | C21H23ClF3NO2S
reactant | dimethylamine | 0.224 mmol, 2M, 0.112 mL | CNC | C2H7N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (S)-N-(5-(3-((dimethylamino)methyl)-5-(trifluoromethyl)benzyl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide | CN(C)CC=1C=C(CC=2C=C3C[C@H](CC3=CC2)NS(=O)(=O)C(C)C)C=C(C1)C(F)(F)F | C23H29F3N2O2S
